US05696256
To a mixture of 1 g N-(2-chloro-5-thiazolylmethyl)-S-methyl-N'-nitroisothiourea, 560 mg potassium carbonate, 400 mg cuprous chloride and 12 ml acetonitrile was added 610 mg of 2-chloro-5-(aminomethyl)thiazole and the mixture was stirred for 1 hour under reflux. Thereafter, the reaction mixture was concentrated, then water was added to the resultant solids, followed by stirring thoroughly. Thereafter, the solids were collected by filtration and purified by column chromatography [eluent: dichloromethane-methanol (10:1)] to afford 191 mg of N,N'-bis(2-chloro-5-thiazolylmethyl)-N"-nitroguanidine (compound No.39) as a white powder, mp 217°-218° C.

reactant | N-(2-chloro-5-thiazolylmethyl)-S-methyl-N'-nitroisothiourea | 1 g | ClC=1SC(=CN1)CNC(SC)=N[N+](=O)[O-] | C6H7ClN4O2S2
reactant | potassium carbonate | 560 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-5-(aminomethyl)thiazole | 610 mg | ClC=1SC(=CN1)CN | C4H5ClN2S
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
product | N,N'-bis(2-chloro-5-thiazolylmethyl)-N"-nitroguanidine | 191 mg | ClC=1SC(=CN1)CNC(=N[N+](=O)[O-])NCC1=CN=C(S1)Cl | C9H8Cl2N6O2S2
